US07737149B2
1-Cyclopropylpiperazine dihydrochloride (1.493 g, 7.5 mmol) was dissolved in water (5.00 mL) and methanol (5.00 mL) and converted to its freebase by ion exchange chromatography, using an SCX column. The desired product was eluted from the column using 3.5M ammonia in methanol and pure fractions were evaporated to dryness to afford 1-cyclopropylpiperazine (0.796 g, 84%) as an oil.

reactant | 1-Cyclopropylpiperazine dihydrochloride | 7.5 mmol, 1.493 g | Cl.Cl.C1(CC1)N1CCNCC1
reactant | methanol | 5.00 mL | CO | CH4O
solvent | water | 5.00 mL | O | H2O
product | 1-cyclopropylpiperazine | 0.796 g, 84% | C1(CC1)N1CCNCC1 | C7H14N2
